US06987116B2
A mixture of 2,4-dichloroaniline (333.8 mg, 2.06 mmol) and 60% sodium hydride (82.4 mg, 2.06 mmol) in 10 mL of tetrahydrofuran is heated at reflux for 1 hour. The solution is cooled and 7-chlorothieno[3,2-b]pyridine-6-carbonitrile (200 mg, 1.03 mmol) is added. The resulting reaction mixture is heated at reflux for 7 hours, cooled to room temperature, and concentrated in vacuo. The residue is treated with water for 1 hour. The precipitate is filtered, washed with water, and air dried. The resultant solid is purified by flash column chromatography eluting with a gradient of 1% ethyl acetate in hexane to 8% ethyl acetate in hexane to provide 173.1 mg of 7-[(2,4-dichlorophenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as a white solid, mp 198-200° C.; 1H NMR (DMSO-d6) δ 7.47 (d, J=4 Hz, 1H), 7.54 (dd, J=6, 2 Hz, 1H), 7.59 (d, J=6 Hz, 1H), 7.81 (d, J=2 Hz, 1H), 8.12 (d, J=4 Hz, 1H), 8.61 (s, 1H), 9.67 (s, 1H); MS 318.1, 320.2 (M+H)+.

reactant | 2,4-dichloroaniline | 2.06 mmol, 333.8 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | sodium hydride | 2.06 mmol, 82.4 mg | [H-].[Na+]
reactant | 7-chlorothieno[3,2-b]pyridine-6-carbonitrile | 1.03 mmol, 200 mg | ClC1=C2C(=NC=C1C#N)C=CS2 | C8H3ClN2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[(2,4-dichlorophenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 173.1 mg | ClC1=C(C=CC(=C1)Cl)NC1=C2C(=NC=C1C#N)C=CS2 | C14H7Cl2N3S
